US04174397
5 g of 6-chloro-1-tetralone are reacted with 4.4 g of bromine in ethyl acetate analogously to the instructions indicated in Example 29 (a). After distilling off the solvent under reduced pressure, 2-bromo-6-chloro-1-tetralone is obtained as an amorphous residue, which is used without further purification.

reactant | 6-chloro-1-tetralone | 5 g | ClC=1C=C2CCCC(C2=CC1)=O | C10H9ClO
reactant | bromine | 4.4 g | BrBr | Br2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-6-chloro-1-tetralone | BrC1C(C2=CC=C(C=C2CC1)Cl)=O | C10H8BrClO
